US06903239B2
Preparation of 4,5-difluoro-2-hydroxy-N,N-dimethylbenzylamine
400 g of 3,4-difluorophenol are initially charged in 408 ml of 40% aqueous dimethylamine solution and cooled to 0° C. At 0-5° C., 276 ml of 37% aqueous formaldehyde solution are added dropwise within 60 min. The mixture is kept at 5-10° C. for 2 hours and subsequently stirred at room temperature for 20 hours. The mixture is admixed with 600 ml of water. The organic phase is removed, the aqueous phase is extracted twice with dichloromethane, the combined organic phases are dried and the solvent is distilled off under reduced pressure. The crude product is subsequently fractionally distilled under reduced pressure. 395 g (65% of theory) of a colourless liquid having a boiling point of 93° C. at 16 mbar are obtained.

reactant | 3,4-difluorophenol | 400 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | formaldehyde | 276 ml | C=O | CH2O
reactant | water | 600 ml | O | H2O
reactant | dimethylamine | 408 ml | CNC | C2H7N
product | 4,5-difluoro-2-hydroxy-N,N-dimethylbenzylamine | FC1=CC(=C(CN(C)C)C=C1F)O | C9H11F2NO
